US07902367B2
Step 67a) Benzyl 1-[2-(methoxycarbonyl)phenyl]nipecotate
Using benzyl nipecotate (5.90 g, 26.9 mmol) and methyl 2-fluorobenzoate (3.70 mL, 29.0 mmol), the same procedure was followed as in Step 1c of Example 1 to give 1.64 g (17%) of the desired compound as a colorless oil.

reactant | benzyl nipecotate | 26.9 mmol, 5.90 g | N1CC(C(=O)OCC2=CC=CC=C2)CCC1 | C13H17NO2
reactant | methyl 2-fluorobenzoate | 29.0 mmol, 3.70 mL | FC1=C(C(=O)OC)C=CC=C1 | C8H7FO2
product | Benzyl 1-[2-(methoxycarbonyl)phenyl]nipecotate | 1.64 g, 17% | COC(=O)C1=C(C=CC=C1)N1CC(C(=O)OCC2=CC=CC=C2)CCC1 | C21H23NO4
